US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidin-4-ylamine
Under an atmosphere of argon, a solution of 4-Amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile (1.16 g, 0.34 mmol) in THF (6 ml) was added slowly to a suspension of LiAlH4 in THF (3 ml). After stirring for 2 h at 40° C., the reaction mixture was cooled to −20° C. and water (0.6 ml) was added. After 15 min, ethyl acetate was added and the mixture was filtered through Decalite. The organic phase was then separated, washed with water, and dried over sodium sulfate. Purification by flash chromatography (silica gel, methanol, dichloromethane) afforded the title compound, MS: m/e=344.2 (M+), as a light yellow solid (0.446 g, 40%).

reactant | 4-Amino-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidine-5-carbonitrile | 0.34 mmol, 1.16 g | NC1=NC(=NC(=C1C#N)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C17H10Cl2N4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.6 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-phenyl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1)N | C17H14Cl2N4
